US04772600
2-(4-Bromophenyl)-N-(1-ethyl-3-piperidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.0 g, 0.018 mole), 1,1'-carbonyldiimidazole (3.1 g, 0.019 mole), and anhydrous tetrahydrofuran (100 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 3 hours. The nitrogen flow was stopped and a solution of 3-amino-N-ethylpiperidine (2.6 g, 0.020 mole) in dry tetrahydrofuran (25 ml) was added. The solution was stirred at room temperature under nitrogen for 2 hours. The reaction mixture was concentrated in vacuo and the residue triturated in potassium bicarbonate solution (100 ml) and filtered. The filter cake was washed with water and recrystallized from isopropyl alcohol to give 4.9 g (62%) of a white solid, mp 190°-192° C.

reactant | 2-(4-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.018 mole, 6.0 g | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'-carbonyldiimidazole | 0.019 mole, 3.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-amino-N-ethylpiperidine | 0.020 mole, 2.6 g | NC1CN(CCC1)CC | C7H16N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(4-Bromophenyl)-N-(1-ethyl-3-piperidinyl)-3H-imidazo[4,5-b]pyridine-3-acetamide | 4.9 g, 62% | BrC1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)NC1CN(CCC1)CC | C21H24BrN5O
